US05112968
6-[[(Carboxymethyl)thio]methyl]-4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, methyl ester
To 5.96 g of 6-(chloromethyl)-4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, methyl ester 0.25 g KI dissolved in 30 ml dimethylformamide, was added a solution of 1.38 g mercaptoacetic acid and 3.04 g triethylamine in 30 ml dimethylformamide. After stirring overnight the formed triethylamne/HCl was filtered off, and the dimethylformamide of the filtrate distilled off in vacuo . The residue was stirred with water/ethylacetate and the pH was adjusted to 2 with 2n HCl. The organic phase was washed with water, dried and evaporated, 6.8 g solid of title compound. Crystallization from ethanol yielded 3.01 g title compound and from the concentrated filtrate another batch of 0.37 g title compound was obtained. M.P. 135° C.

reactant | 6-(chloromethyl)-4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, methyl ester | 5.96 g | ClCC1=C(C(=CC(=N1)C(=O)OC)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H20ClNO4
reactant | mercaptoacetic acid | 1.38 g | SCC(=O)O | C2H4O2S
reactant | triethylamine | 3.04 g | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-[[(Carboxymethyl)thio]methyl]-4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, methyl ester | 3.01 g | C(=O)(O)CSCC1=C(C(=CC(=N1)C(=O)OC)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C24H23NO6S
